US07723347B2
Ethyl (2-fluoro-4-nitrophenyl)acetate
500 mg (1.84 mmol) of dimethyl (2-fluoro-4-nitrophenyl)malonate are dissolved in 10 ml of DMSO. 33.2 mg (1.84 mmol) of water and 313 mg (7.37 mmol) of lithium chloride are added, and the mixture is heated at 100° C. for 3 hours. The reaction solution is then poured into 30 ml of ethyl acetate and shaken with saturated sodium chloride solution and with dilute hydrochloric acid. The mixture is dried over sodium sulfate and the solvent is removed under reduced pressure. The oil obtained is purified by preparative HPLC. The product fractions are extracted with ethyl acetate. The combined organic phases are dried over sodium sulfate and the solvent is removed under reduced pressure. This gives an oil which, after seeding with product crystals, quickly crystallizes.

reactant | dimethyl (2-fluoro-4-nitrophenyl)malonate | 1.84 mmol, 500 mg | FC1=C(C=CC(=C1)[N+](=O)[O-])C(C(=O)OC)C(=O)OC | C11H10FNO6
reactant | water | 1.84 mmol, 33.2 mg | O | H2O
reactant | lithium chloride | 7.37 mmol, 313 mg | [Cl-].[Li+]
reactant | sodium chloride | [Cl-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl (2-fluoro-4-nitrophenyl)acetate | FC1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)OCC | C10H10FNO4
